US07973078B2
182 mg of 3-[({N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycyl}amino)methyl]benzoic acid was dissolved in 0.50 mL of DMF, and 75 mg of 1,1′-carbonyldiimidazole was added thereto, followed by stirring at room temperature for 1 hour. To the reaction liquid were added 40 mg of methane sulfonamide and 66 mg of DBU, followed by stirring at 50° C. for 8 hours. The reaction liquid was acidified by addition of 2.50 mL of 1 M hydrochloric acid, and then extracted with a mixed solvent of chloroform/methanol (5/1), and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 95:5) to obtain 207 mg of 3-[({N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycyl}amino)methyl]-N-(methylsulfonyl)benzamide.

reactant | 3-[({N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycyl}amino)methyl]benzoic acid | 182 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC=1C=C(C(=O)O)C=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C | C24H23ClN2O5S
reactant | 1,1′-carbonyldiimidazole | 75 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methane sulfonamide | 40 mg | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 66 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 1 M, 2.50 mL | Cl | ClH
solvent | DMF | 0.50 mL | CN(C)C=O | C3H7NO
product | 3-[({N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycyl}amino)methyl]-N-(methylsulfonyl)benzamide | 207 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC=1C=C(C(=O)NS(=O)(=O)C)C=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C | C25H26ClN3O6S2
